US06734180B1
Using 2-(tert-butoxycarbonylamino)-5-phenoxyindan (120 mg, 0.36 mmol), 4N hydrochloric acid-dioxane (1.7 ml) and acetic acid (5.1 ml), a similar procedure to Example 24 was carried out to obtain 2-amino-5-phenoxyindan hydrochloride (99 mg, 0.36 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-phenoxyindan | 0.36 mmol, 120 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)OC1=CC=CC=C1 | C20H23NO3
reactant | hydrochloric acid dioxane | 4N, 1.7 ml | Cl.O1CCOCC1
solvent | acetic acid | 5.1 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-phenoxyindan hydrochloride | 0.36 mmol, 99 mg | Cl.NC1CC2=CC=C(C=C2C1)OC1=CC=CC=C1 | InChI=1S/C15H15NO.ClH/c16-13-8-11-6-7-15(10-12(11)9-13)17-14-4-2-1-3-5-14;/h1-7,10,13H,8-9,16H2;1H
